US05155122
2,6-(Bis(1,1-dimethylethyl)-4-[5-(trifluoromethyl)-1,3,4-thiadiazol-2-yl]phenol
A solution of 2.0 g (7.1 mmol) of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzenecarbothioic acid, hydrazide in 15 m of tetrahydrofuran is added dropwise to a 0° C. solution of 2.1 g (18.4 mmol) of trifluoroacetic anhydride in 20 ml of tetrahydrofuran under a nitrogen atmosphere. The reaction is stirred at 0° C. to room temperature over three hours, room temperature for 19 hours, and at reflux for one hour. The cooled reaction mixture is partitioned between 100 ml t-butylmethylether and 150 ml of water. The aqueous layer is extracted with t-butylmethylether (2×50 ml). The combined organic extracts are washed with 5% aqueous NaHCO3 (2×30 ml), 3N aqueous HCl (2×30 ml), and brine (50 ml), dried over Na2SO4, and concentrated in vacuo to give a foam. Chromatography (flash, SiO2, 70-230 mesh, 25% ethyl acetate-hexane, 13×3.5 cm) followed by recrystallization from isopropanol-water gives 1.03 g (2.54 g theor., 41%) of the title compound, mp 96°-97° C.

reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzenecarbothioic acid, hydrazide | 7.1 mmol, 2.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(=S)NN | C15H24N2OS
reactant | trifluoroacetic anhydride | 18.4 mmol, 2.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Bis(1,1-dimethylethyl)-4-[5-(trifluoromethyl)-1,3,4-thiadiazol-2-yl]phenol | CC(C)(C)C=1C(=C(C=CC1C=1SC(=NN1)C(F)(F)F)O)C(C)(C)C | C17H21F3N2OS
